US07855290B2
[4-(4-{[1-(4-Fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester
A crude product of [4-(4-aminophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester (820 mg) was dissolved in N,N-dimethylformamide (15 ml). 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (830 mg), triethylamine (0.519 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.65 g) were added in this order under a nitrogen atmosphere at room temperature, followed by stirring for 15.5 hr. Liquid-liquid separation was carried out after addition of ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate to the reaction mixture. The resultant organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give residue, which was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=2:3 to 1:1). Fractions containing the target compound were concentrated under reduced pressure to provide the titled compound as white foam (845.8 mg).

reactant | [4-(4-aminophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 820 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)N)=O | C25H19N3O5
reactant | 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 830 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 0.519 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.65 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | [4-(4-{[1-(4-Fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 845.8 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)=O | C36H27FN4O7
